US07781485B2
3-Oxopentanedioic acid dimethyl ester (11 mL, 75 mmol) was dissolved in dichloromethane (100 mL), and cooled to 0° C. The obtained solution was added with 2-chloro-1,3-dimethylimidazolium chloride (14 g, 83 mmol) and triethylamine (31 mL, 0.23 mol), warmed up to a room temperature and stirred for 4 hours. The reaction mixture was added with hexane (200 mL) and water and extracted with hexane 3 times. The organic layers were combined and sequentially washed with water and saturated brine, dried over anhydrous sodium sulfate and then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain penta-2,3-dienedioic acid dimethyl ester (4.7 g, 40%).

reactant | 3-Oxopentanedioic acid dimethyl ester | 75 mmol, 11 mL | COC(CC(CC(=O)OC)=O)=O | C7H10O5
reactant | 2-chloro-1,3-dimethylimidazolium chloride | 83 mmol, 14 g | [Cl-].ClC1=[N+](C=CN1C)C
reactant | triethylamine | 0.23 mol, 31 mL | C(C)N(CC)CC | C6H15N
reactant | hexane | 200 mL | CCCCCC | C6H14
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | penta-2,3-dienedioic acid dimethyl ester | 4.7 g, 40% | COC(C=C=CC(=O)OC)=O | C7H8O4
